US08871753B2
Step A: tert-Butyl (2-iodo-4-nitrophenyl)carbamate
To a solution of 2-iodo-4-nitroaniline (20.0 g, 75.8 mmol) in THF (150 mL) at 0° C. was added sodium hydride (2.18 g, 90.9 mmol). After stirring for 0.5 h, di-tert-butyldicarbonate (17.4 g, 79.5 mmol) was added to the reaction flask and the reaction mixture was warmed to rt and stirred overnight. LCMS showed 50% conversion of the starting materials (SM). The reaction solution was cooled down to 0° C. and another 0.7 eq NaH was added. After stirring overnight, the reaction solution was diluted with water and ethyl acetate. The organic solution was separated and washed with brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified with silica gel chromatography (20% ethyl acetate/hexanes) to give the desired product as white solid (17.2 g, 62%). LCMS calculated for C11H14IN2O4(M+H)+: m/z=365.0.

reactant | 2-iodo-4-nitroaniline | 75.8 mmol, 20.0 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | sodium hydride | 90.9 mmol, 2.18 g | [H-].[Na+]
reactant | di-tert-butyldicarbonate | 79.5 mmol, 17.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaH | 0.7 eq | [H-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (2-iodo-4-nitrophenyl)carbamate | 17.2 g, 62% | IC1=C(C=CC(=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C11H13IN2O4
